US05814630
Using an analogous procedure to that described in Example 1, 7-bromo-4-(3-chloro-4-fluoroanilino)quinazoline hydrochloride salt was reacted with di-isopropyl 2-furylboronate to give 4-(3-chloro-4-fluoroanilino)-7-(2-furyl)quinazoline in 36% yield, m.p.>250° C.;

reactant | 7-bromo-4-(3-chloro-4-fluoroanilino)quinazoline hydrochloride salt | Cl.BrC1=CC=C2C(=NC=NC2=C1)NC1=CC(=C(C=C1)F)Cl
reactant | di-isopropyl 2-furylboronate | O1C(=CC=C1)B(OC(C)C)OC(C)C | C10H17BO3
product | 4-(3-chloro-4-fluoroanilino)-7-(2-furyl)quinazoline | 36% yield | ClC=1C=C(NC2=NC=NC3=CC(=CC=C23)C=2OC=CC2)C=CC1F | C18H11ClFN3O
